Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___
 
Chief Complaint:
AMS, lactic acidosis 
 
Major Surgical or Invasive Procedure:
___: Right Internal Jugular Insertion 
intubation
 
History of Present Illness:
Mr. ___ is a ___ y/o male with history of questionable 
schizophrenia and previous Benadryl overdose, who presented with 
AMS. 

The patient was reportedly at his baseline health until this 
morning. The patient had called his friend two days prior to 
admission stating that he was going to stay with him. When he 
asked why he was coming to ___, the patient stated that he 
would tell the friend later.   He told the friend he was going 
to ___ to get cold medication and then never returned. He 
was noted to be acting erratically and vomiting after entering 
the College of ___. He was reportedly found with a receipt 
for 150 pills of naproxen. EMS was called and brought the 
patient to the emergency department. 

In the ED, his friend also provided prior ___ paperwork 
describing a prior psychiatric illness and prior Benadryl 
overdose, admitted to ___ (___). At that time, the patient 
had been having paranoid delusions of persecution. He then 
overdosed on Benadryl and was admitted to ___.  He was started 
on olanzapine 10mg PO qhs at that time.  

In the ED, initial vitals:  Temp 98.8 HR 112 BP 118/80 RR 12 
100% on RA

Exam notable for: pupils 4 mm reactive, armpits not dry, no 
clonus, not speaking at all, actively avoiding the examiner 

Labs notable for: Cr 1.0, WBC 24.4, CK 362, lactate 9.4 -> 7.3, 
urine/serum tox negative, VBG ___

QTc 517 

Imaging: CXR negative, CT head negative for acute process 

Patient received: 1L NS, 5L LR cefepime/vancomycin, 
dexamethasone 10 mg, lorazepam 1 mg, ketamine 70 mg, and was 
started on norepinephrine

Consults: Poison control who recommended supportive measures 

Patient became acute altered and began vomiting in the ED. He 
was given ketamine and intubated for airway protection. 

Vitals on transfer:  Temp 97.8 HR 110 BP 94/42 RR 15 100% on 
ventilator 

Upon arrival to ___, unable to obtain further information as 
patient intubated and sedated.  
 
Past Medical History:
- Possible Schizophrenia
- Possible prior suicide attempt 

 

 
Social History:
___
Family History:
Unable to obtain due to mental status  
 
Physical Exam:
ADMISSION PHYSICAL EXAM: 
======================== 
VITALS:  T 97.1, HR 110, BP 129/92, 100% intubated
GENERAL: WDWN male in NAD. Lying comfortably. Sedated. 
HEENT: Sclera anicteric, Pupils pinpoint MMM, oropharynx clear  
NECK: JVP not elevated, no LAD  
LUNGS: Normal respiratory effort. rhonchi bilaterally
CV: tachycardic, normal rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
ABD: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness 
EXT: cool, 2+ pulses, no clubbing, cyanosis or edema  
SKIN: Warm, dry. No rashes.
NEURO: Sedated.
ACCESS:  3 PIVs

DISCHARGE PHYSICAL EXAM:
========================
Examined 1030 AM
VSS
GENERAL: sitting in bed, alert, nad
HEENT: Sclera anicteric  
NECK: JVP not elevated, no LAD  
LUNGS: Normal respiratory effort. CTAB
CV: RRR, normal S1 S2, no murmurs, rubs, gallops  
ABD: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness 
EXT: cool, 2+ pulses, no clubbing, cyanosis or edema  
SKIN: Warm, dry. No rashes.
NEURO: alert, oriented, nonfocal
PYSCH: paranoid, no SI/HI, very calm and pleasant otherwise

 
Pertinent Results:
ADMISSION LABS:
================
___ 01:45PM BLOOD WBC-24.4* RBC-5.35 Hgb-15.1 Hct-46.1 
MCV-86 MCH-28.2 MCHC-32.8 RDW-14.3 RDWSD-45.1 Plt ___
___ 01:45PM BLOOD Neuts-90.7* Lymphs-4.8* Monos-2.9* 
Eos-0.1* Baso-0.3 Im ___ AbsNeut-22.12* AbsLymp-1.17* 
AbsMono-0.70 AbsEos-0.02* AbsBaso-0.07
___ 01:45PM BLOOD Plt ___
___ 04:15PM BLOOD ___ PTT-26.9 ___
___ 01:45PM BLOOD Glucose-197* UreaN-10 Creat-1.0 Na-138 
K-5.9* Cl-101 HCO3-20* AnGap-17
___ 01:45PM BLOOD ALT-QNS AST-QNS AlkPhos-75 TotBili-0.2
___ 01:45PM BLOOD Lipase-31
___ 04:15PM BLOOD CK-MB-12* MB Indx-3.3
___ 01:45PM BLOOD Albumin-4.4 Calcium-9.4 Phos-5.0* Mg-2.5
___ 06:19PM BLOOD Osmolal-308
___ 10:32PM BLOOD TSH-4.4*

PERTINENT LABS/MICRO:
======================
___ 01:45PM BLOOD Lipase-31

___ 10:32PM BLOOD cTropnT-<0.01
___ 12:10PM BLOOD CK-MB-18* MB Indx-7.3* cTropnT-<0.01

___ 10:32PM BLOOD TSH-4.4*
___ 12:10PM BLOOD HIV Ab-NEG

___ 04:17PM BLOOD Lactate-9.4*
___ 06:31PM BLOOD Lactate-7.3*
___ 11:39PM BLOOD Lactate-3.1* K-3.5
___ 04:16AM BLOOD Lactate-2.6*
___ 10:55PM BLOOD Lactate-1.7
___ 06:31PM BLOOD Type-CENTRAL VE pO2-42* pCO2-41 pH-7.36 
calTCO2-24 Base XS--1 Intubat-NOT INTUBA

___ 04:27PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG
___ 10:35PM BLOOD Tricycl-NEG
___ 01:45PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 6:19 pm Blood (LYME)
   Lyme IgG (Final ___: 
      NEGATIVE BY EIA. 
           (Reference Range-Negative). 

   Lyme IgM (Final ___: 
      NEGATIVE BY EIA. 

___ BCX x2: No growth to date

___ 6:01 pm CSF;SPINAL FLUID      #3. 

   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 
      This is a concentrated smear made by cytospin method, 
please refer to
      hematology for a quantitative white blood cell count.. 

   FLUID CULTURE (Preliminary):    NO GROWTH. 

___ Urine culture: No growth

DISCHARGE LABS:
================

PERTINENT IMAGING:
==================
___: CT HEAD WITHOUT CONTRAST
No acute intracranial abnormality.  Prominence of the ventricles 
and sulci, consistent with involutional changes, is greater than 
that typically seen in a patient of this age. 

___ CXR
No acute intrathoracic process.

___ TTE
The left atrium is normal in size. Left ventricular wall 
thickness, cavity size and regional/global systolic function are 
normal (LVEF=55%). Doppler parameters are most consistent with 
normal left ventricular diastolic function. There is no 
ventricular septal defect. Right ventricular chamber size and 
free wall motion are normal. The aortic valve leaflets (3) 
appear structurally normal with good leaflet excursion and no 
aortic stenosis or aortic regurgitation. The mitral valve 
appears structurally normal with trivial mitral regurgitation. 
There is no mitral valve prolapse. The pulmonary artery systolic 
pressure could not be determined. There is no pericardial 
effusion. 

IMPRESSION: Normal biventricular systolic function. No 
pathologic valvular flow.  

 
Brief Hospital Course:
Mr. ___ is a ___ y/o male with history of questionable 
schizophrenia and previous Benadryl overdose, who presented with 
AMS likely secondary to toxic ingestion. He initially required 
intubation given AMS and MICU admission. He was given 
intravenous fluids and monitored clinically and with serial 
EKGs.  

ACTIVE ISSUES:   
===============

# Encephalopathy:  
Presented by EMS after noted to be acting erratically and AMS. 
Highest concern for toxic ingestion, particularly given his 
possible previous overdose and acute change in mental status. 
Serum/urine tox and TCA screen negative. There was concern for 
overdose of naproxen given a receipt found on him or a cold 
medication given history provided but no other signs of 
anticholinergic toxicity such as urinary retention or flushing 
besides AMS and prolonged QTc in ED. Poison control was 
consulted and recommended continuing with conservative measures. 
He was also monitored with serial EKGs that showed a downtrended 
QTc from ~500s initially to <500. Differential also included 
infection with leukocytosis to 24 though there were no focal 
signs or symptoms and work up, including cultures and LP, was 
unremarkable. He received wide spectrum antibiotics and IV 
acyclovir for possible HSV encephalitis for 2 days before 
stopping given low clinical concern. EEG performed which did 
reveal possible focus of epileptiform activity but he couldn't 
tolerate leads so EEG was DCd and Neuro recommends no 
intervention. His mental status ultimately improved rapidly and 
he was extubated without issues. When he was more coherent he 
reports he is unable to remember what happened to bring him to 
the hospital. He denied any intentional overdose but did admit 
to taking 4 unisom pills has he hadn't slept for 3 days. 
Currently appears to be at baseline mental status.

# Possible Schizophrenia:
# Possible prior suicide attempt:
# Possible ingestion, presumed intentional
Appears to on initial reports to have a 2 week hospitalization 
requiring inpatient psych admission under similar circumstances 
at ___. Reportedly on Olanzapine but reports he has stopped 
taking it a few months, unclear how true this is.
Toxicology recommended conservative management for possible 
NSAID ingestion and has no further symptoms. He reports he took 
some unisom pills ~4 pills. Vitals and labs have since 
normalized so toxicology recommended against any further 
evaluation. Currently denies SI or previous SI. He does report 
hearing voices which he denies tells him to hurt himself or 
others but rather just speaks to others about what he does. He 
said he last heard the voices a few day prior to admission. He 
was evaluated by psychiatry who given admission circumstances 
were concerned for possible intentional overdose in suicide 
attempt. He was sectioned and monitored on 1:1 supervision. He 
was transferred to inpatient psychiatry. 

#Acute hypoxic respiratory failure
#Aspiration pneumonitis 
In the ED, patient vomited, likely aspirated, and then became 
hypoxic. Gastric secretions suctioned from oropharynx and OG 
tube. He was intubated given ongoing hypoxia and AMS. Follow up 
CXR was overall unremarkable. He was briefly treated with broad 
spectrum antibiotics for ~2 days before discontinuing due to low 
concern for true infection.  He was continued on a ventilator 
for ~36-48 hours before being extubated without issues. 
Currently saturating well on RA. 

#Lactic Acidosis
#Anion Gap Metabolic Acidosis 
#Leukocytosis 
Meet ___ SIRS criteria (HR, WBC) with lactic acidosis to 9.4 on 
arrival. Combination concerning for infection though ingestion 
was felt to be more likely given his history. CXR unremarkable. 
Cultures negative. LP unremarkable. Ultimately, lactic acidosis 
improved with significant fluid resuscitation. Was placed on 
broad spectrum abx for 48hrs that have since been removed. He 
has been afebrile without leukocytosis and off abx for >48hrs 
with no worsening of symptoms. 

# Coagulopathy
INR of 1.7 without clear etiology, possibly related to ingestion 
though LFTs otherwise normal, tylenol level negative. No signs 
of bleeding. Downtrended to 1.1 by discharge.

___ weakness- He reports ___ weakness and RUE weakness. Exam is 
not consistent with reported weakness. He told toxicology he had 
back issues because he was stabbed prior to coming to the 
hospital. Wonder if he has some discomfort from LP that he is
manifesting with his new "disability" as his symptoms don't 
appear to correlate with examine findings. He eventually was 
able to ambulate on his own. Per psych request ___ was consulted 
who cleared him for discharge.

Direct patient care, discharge planning and care coordination, 
discussion with consultants took approx. 40 min on day of 
discharge.
 

 

 
Medications on Admission:
n/a
 
Discharge Medications:
1.  FoLIC Acid 1 mg PO DAILY  
2.  Thiamine 100 mg PO DAILY  
3.  OLANZapine 5 mg PO BID  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
toxic ingestion
?suicide attempt

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with confusion and shortness of breath. This 
was felt to be likely from toxic ingestion. You were sent to the 
ICU were you were intubated. You improved so were eventually 
extubated with resolution of symptoms. You were seen by 
psychiatry who recommended inpatient psych evaluation which you 
are being discharged to.

Best of luck in your recovery,
Your ___ care team
 
Followup Instructions:
___